US04242355
A stirred mixture of 20 g of 3-methoxy-benzeneethanamine and 15.2 g of cyclohexylacetic acid was heated at 190°-200° C. under an inert atmosphere for 45 minutes and was then cooled to 30° C. The product was dissolved in ethyl acetate and the solution was washed successively with N sodium hydroxide solution, N hydrochloric acid and water and was evaporated to dryness. The 29 g of oil residue was crystallized from petroleum ether (b.p.=40°-70° C.) and the product was dried to obtain 21.3 g of N-[2-(3-methoxyphenyl)-ethyl]cyclohexane-acetamide in the form of a white solid melting at 74° C.

reactant | 3-methoxy-benzeneethanamine | 20 g | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | cyclohexylacetic acid | 15.2 g | C1(CCCCC1)CC(=O)O | C8H14O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(3-methoxyphenyl)-ethyl]cyclohexane-acetamide | 21.3 g | COC=1C=C(C=CC1)CCNC(CC1CCCCC1)=O | C17H25NO2
